US08258158B2
Cyclopropylacetic acid (0.055 g) was dissolved in acetonitrile (6 ml), ethyl-diisopropyl-amine (0.129 g), BOP (0.221 g) was added at RT under an argon atmosphere and the mixture was stirred for 30 minutes at RT. Then piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide (0.123 g) in acetonitrile (2 ml) was added dropwise at RT and the reaction mixture was stirred for 12 h until completion of the reaction. It was then partitioned between ethyl acetate and aqueous 1M HCl, the layers were separated and the aqueous layer washed with 2M aqueous KHCO3 then dried over Na2SO4. The solvent was evaporated off, the residue purified by flash chromatography (AcOEt/heptane, gradient from 0 to 60%) to give 1-(2-cyclopropyl-acetyl)-piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide (0.158 g) as an off-white solid. MS (ESI): 329.17 (MH+).

reactant | Cyclopropylacetic acid | 0.055 g | C1(CC1)CC(=O)O | C5H8O2
reactant | ethyl-diisopropyl-amine | 0.129 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | BOP | 0.221 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide | 0.123 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCNCC1 | C15H22N2O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-(2-cyclopropyl-acetyl)-piperidine-4-carboxylic acid (4-isopropyl-phenyl)-amide | 0.158 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)C(CC1CC1)=O | C20H28N2O2
